US03994890
By the procedure similar to that described in Example 13, 3-phenyl-5-chloroindazole (4.57 g) and morpholinoethyl chloride (3.59 g) were treated to obtain 3.7 jg of 1-morpholinoethyl-3-phenyl-5-chloroindazole hydrochloride (m.p. 226°-229° C).

reactant | 3-phenyl-5-chloroindazole | 4.57 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)Cl | C13H9ClN2
reactant | morpholinoethyl chloride | 3.59 g | O1CCN(CC1)CCCl | C6H12ClNO
product | 1-morpholinoethyl-3-phenyl-5-chloroindazole hydrochloride | Cl.O1CCN(CC1)C(C)C1=C2C(=NNC2=CC=C1Cl)C1=CC=CC=C1 | InChI=1S/C19H20ClN3O.ClH/c1-13(23-9-11-24-12-10-23)17-15(20)7-8-16-18(17)19(22-21-16)14-5-3-2-4-6-14;/h2-8,13H,9-12H2,1H3,(H,21,22);1H
